US07419997B2
To a solution of 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one (500 mg, 2.3 mmol) and ammonium acetate (1.8 g, 23 mmol) in methanol (9 mL) was added sodium cyanoborohydride (720 mg, 11.5 mmol). After heating at 60° C. for 15 hours, the mixture was cooled and treated with concentrated hydrochloric acid until pH=1. The organics were removed under reduced pressure and the resulting precipitate was collected by filtration, dissolved in ethyl acetate and methanol, and washed with saturated aqueous sodium carbonate. The phases were separated and the organic phase was concentrated to yield 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine (260 mg, 52% yield) as a light brown solid. 1H-NMR (DMSO-d6): δ 10.90 (s, 1H), 7.34 (m, 1H), 7.27 (d, 1H), 6.97 (dd, 1H), 3.90 (t, 1H), 2.54 (m, 2H), 2.04-1.89 (m, 2H), 1.66 (m, 1H), 1.50 (m, 1H); MS m/z 221 (M+1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | 2.3 mmol, 500 mg | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | ammonium acetate | 23 mmol, 1.8 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 11.5 mmol, 720 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 9 mL | CO | CH4O
product | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 260 mg, 52% yield | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
